US06177452B1
Phenyl chloroformate (14.1 g) was added dropwise to a mixture of ethyl 6-(4-chlorobenzoyl)-6-hydroxyhexanoate (24.5 g), pyridine(7.14 g) and tetrahydrofuran(200 ml) with cooling with ice. After stirring for 3 hours at room temperature, the reaction mixture was poured into ice water, and neutrized by 2N-hydrochloric acid. This was extracted with ethyl acetate. The ethyl acetate layer was washed with water, and dried(MgSO4). The solvent was evaporated to give ethyl 6-(4-chlorobenzoyl)-6-phenoxycarbonyloxyhexanate(32.3 g, 94%) as an oily substance.

reactant | Phenyl chloroformate | 14.1 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | ethyl 6-(4-chlorobenzoyl)-6-hydroxyhexanoate | 24.5 g | ClC1=CC=C(C(=O)C(CCCCC(=O)OCC)O)C=C1 | C15H19ClO4
reactant | pyridine | 7.14 g | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | ethyl 6-(4-chlorobenzoyl)-6-phenoxycarbonyloxyhexanate | 32.3 g, 94% | ClC1=CC=C(C(=O)C(CCCCC(=O)OCC)OC(=O)OC2=CC=CC=C2)C=C1 | C22H23ClO6
